US09315521B2
6-methyl-2-sulfanylpyrimidin-4-ol (1.21 g, 8.5 mmol) was dissolved in anhydrous DMF (50 mL), and then potassium carbonate (1.76 g, 12.7 mmol) and 1-bromo-3-(bromomethyl)-2-chlorobenzene (3.13 g, 11.0 mmol) in anhydrous DMF (10 mL) were added. The mixture was stirred overnight at room temperature. The solid was filtered, washed with water plus diethyl ether, and dried in vacuo to afford to 2-{[(3-bromo-2-chlorophenyl)methyl]sulfanyl}-6-methylpyrimidin-4-ol (2.28 g, 78% yield); 1H NMR (400 MHz, DMSO-d6): δ 2.03 (s, 3H), 4.39 (s, 2H), 5.67 (s, 1H), 7.17 (t, J=7.9 Hz, 1H), 7.63 (d, J=7.9 Hz, 2H); LRMS (ES+) m/z 345 (75%, M+1), 347 (100%, M+3), 349 (30%, M+5).

reactant | 6-methyl-2-sulfanylpyrimidin-4-ol | 8.5 mmol, 1.21 g | CC1=CC(=NC(=N1)S)O | C5H6N2OS
reactant | potassium carbonate | 12.7 mmol, 1.76 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1-bromo-3-(bromomethyl)-2-chlorobenzene | 11.0 mmol, 3.13 g | BrC1=C(C(=CC=C1)CBr)Cl | C7H5Br2Cl
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 2-{[(3-bromo-2-chlorophenyl)methyl]sulfanyl}-6-methylpyrimidin-4-ol | 2.28 g, 78% yield | BrC=1C(=C(C=CC1)CSC1=NC(=CC(=N1)O)C)Cl | C12H10BrClN2OS
